US04421758
(a) 2-(4-Acetamidophenoxymethyl)-3,4-dihydro-2H-pyran
A solution of 831 mg of 4-acetamidophenol in 5 ml of dimethylformamide was stirred for 30 minutes at room temperature with 240 mg of 55% sodium hydride. 1.34 g of 2-tosyloxymethyl-3,4-dihydro-2H-pyran was then added and the mixture was heated, with stirring, at 90°-95° C. for 4.5 hours. The mixture was then poured into water and extracted with diethyl ether. The ethereal extract was washed with water and dried over anhydrous magnesium sulphate, after which the solvent was evaporated off. The residue was purified by column chromatography through silica gel, to give 965 mg of the title compound, melting at 114°-116° C.

reactant | 4-acetamidophenol | 831 mg | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 1.34 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-Acetamidophenoxymethyl)-3,4-dihydro-2H-pyran | 965 mg | C(C)(=O)NC1=CC=C(OCC2OC=CCC2)C=C1 | C14H17NO3
